* TestBench: analogcoder_pro_p02_amplifier_full_testbench
* Circuit: analogcoder_pro_p02_amplifier
* Category: full
*
.OPTIONS POST=2 PROBE

* AnalogCoder-Pro p2: A three-stage amplifier with single input and output (each stage is common-source with resistive load)
* Source: analogcoder\AnalogCoderPro-master\sample_design\p2\p2.py
* AnalogCoder-Pro type: Amplifier
* Inputs: Vin
* Outputs: Vout

.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)

Vdd Vdd 0 5
Vin Vin 0 DC 1.0 AC 1n
Vbias_M2_gate Bias_M2 Drain1 2
M1 Drain1 Vin 0 0 nmos_model W=5e-05 L=1e-06
R1 Drain1 Vdd 10000
M2 Drain2 Bias_M2 Drain1 0 nmos_model W=5e-05 L=1e-06
R2 Drain2 Vdd 10000
M3 Vout Drain2 0 0 nmos_model W=5e-05 L=1e-06
R3 Vout Vdd 10000

.OP
.AC DEC 100 1 1G

.TEMP 27.0
.TRAN 1n 50u 0

.END